US08466186B2
(b) 4-Fluoro-N-methyl-2-nitro-5-(4-trifluoromethyl-piperidin-1-yl)aniline
A mixture of 4,5-difluoro-N-methyl-2-nitroaniline (1.0 g, 5.3 mmol), 4-trifluoromethylpiperidine hydrochloride (2.02 g, 10.6 mmol), K2CO3 (1.47 g, 10.6 mmol) and DMF (7 mL) was stirred at 40° C. overnight under Ar atmosphere. The mixture was poured into aqueous ammonia and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was washed with Et2O/PE to give the sub-title compound.

reactant | 4,5-difluoro-N-methyl-2-nitroaniline | 5.3 mmol, 1.0 g | FC1=CC(=C(NC)C=C1F)[N+](=O)[O-] | C7H6F2N2O2
reactant | 4-trifluoromethylpiperidine hydrochloride | 10.6 mmol, 2.02 g | Cl.FC(C1CCNCC1)(F)F
reactant | K2CO3 | 10.6 mmol, 1.47 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ammonia | N | H3N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 4-Fluoro-N-methyl-2-nitro-5-(4-trifluoromethyl-piperidin-1-yl)aniline | FC1=CC(=C(NC)C=C1N1CCC(CC1)C(F)(F)F)[N+](=O)[O-] | C13H15F4N3O2
